US07060827B2
In like manner to the preparation of N2,N-4-bis(3-hydroxyphenyl)-5-fluoro-4-pyrimidineamine, 4-aminobenzonitrile and 2,4-dichloro-5-fluoropyrimidine gave N2,N4-bis(4-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 7.26 (d, J=8.7 Hz, 2H), 7.36 (d, J=9.0 Hz, 2H), 7.43 (d, J=8.7 Hz, 2H), 7.60 (d, J=8.7 Hz, 2H), 7.86 (d, J=3.6 Hz, 1H), 9.49 (br, 1H, NH), 9.51 (br, 1H, NH); 19F NMR (282 MHz, DMSO-d6): δ −161.48; LC: 27.15 min.; 100%; MS (m/e): 331.00 (MH+).

reactant | 4-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis(4-cyanophenyl)-5-fluoro-2,4-pyrimidinediamine | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C#N)F | C18H11FN6
